US08440666B2
1-(Pyridazin-4-yl)propan-1-amine
2-[1-(Pyridazin-4-yl)propyl]isoindoline-1,3-dione (91.8 mg, 0.34 mmol) in methanol (1 mL) was mixed with hydrazine monohydrate (83 μL, 1.7 mmol) at room temperature and stirred at 60° C. for 3 hours. After completion of the reaction, the solid was filtered off with chloroform, and the filtrate was evaporated under reduced pressure repeatedly to give the desired product (100% yield).

reactant | 2-[1-(Pyridazin-4-yl)propyl]isoindoline-1,3-dione | 0.34 mmol, 91.8 mg | N1=NC=C(C=C1)C(CC)N1C(C2=CC=CC=C2C1=O)=O | C15H13N3O2
reactant | hydrazine monohydrate | 1.7 mmol, 83 μL | O.NN
solvent | methanol | 1 mL | CO | CH4O
product | 1-(Pyridazin-4-yl)propan-1-amine | 100% yield | N1=NC=C(C=C1)C(CC)N | C7H11N3
